US08283353B2
4-(4-morpholin-4-ylcyclohexyl)-7-propyl-6-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 4′-{[4-(4-morpholin-4-ylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.08 g), dibutyltin oxide (0.0037 g), azidotrimethylsilane (0.26 g) and toluene (10 mL) was stirred at 110° C. for 48 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless amorphous solid (0.02 g, 23%).

reactant | 4′-{[4-(4-morpholin-4-ylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.08 g | N1(CCOCC1)C1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C32H36N6O2
reactant | dibutyltin oxide | 0.0037 g | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 0.26 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-morpholin-4-ylcyclohexyl)-7-propyl-6-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.02 g, 23% | N1(CCOCC1)C1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC)N=CN2 | C32H37N9O2
